US07728009B1
T. 1-Cyclobutyl-4-[(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methoxy-methyl]-piperidine
To a solution of (1-cyclobutyl-piperidin-4-yl)-(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methanol (20 mg) in DMF (2 ml) is added NaH (6 mg, 60%), followed by CH3I (15 mg). The resulting mixture is stirred at rt for 30 min, and then diluted with EtOAc, washed with water and brine, dried and solvent removed. The crude product is purified by column (2% Et3N, 3% MeOH in EtOAc) to afford the title compound as an oil. LCMS 404.1 (M+1). 1H NMR (CDCl3) δ ppm 1.25 (t, 3H), 1.40-2.05 (m, 11H), 2.60 (m, 1H), 2.90 (m, 2H), 3.36 (s, 3H), 3.75 (q, 214), 4.05 (d, 1H), 7.02 (s, 1H), 7.42-7.60 (m, 5H), 7.86-7.96 (m, 2H).

reactant | (1-cyclobutyl-piperidin-4-yl)-(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methanol | 20 mg | C1(CCC1)N1CCC(CC1)C(O)C=1N=C(N(C1)CC)C1=CC=CC2=CC=CC=C12 | C25H31N3O
reactant | NaH | 6 mg | [H-].[Na+]
reactant | CH3I | 15 mg | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Cyclobutyl-4-[(1-ethyl-2-naphthalen-1-yl-1H-imidazol-4-yl)-methoxy-methyl]-piperidine | C1(CCC1)N1CCC(CC1)C(OC)C=1N=C(N(C1)CC)C1=CC=CC2=CC=CC=C12 | C26H33N3O
